Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
N/V, diarrhea
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr. ___ is a ___ presenting with 1 day of vomiting,
abdominal pain, and diarrhea. 

He describes the pain as ___ intermittent, crampy, generalized
abd pain. This has been associated with vomiting since 6am on
___, nonbloody, nonbilious, ~1.5 total liters. He has had
diarrhea, which he describes as being mostly watery with very
little stool. At times he cannot make it to the restroom. He 
also
reports chills, some muscle "tension", and cough and sneezing. 
No
sick contacts. Pain somewhat improved with a hot shower, but no
improvement in nausea or vomiting. He has been told previously
that he has cyclic vomiting syndrome, and does report using
marijuana fairly frequently, though less than a few years ago. 
He
has not had an episode like this in several years.

On review of records, patient was seen for an epi visit for
crampy abdominal pain in ___. He had labs, which were normal,
and H. pylori serologic testing, which was negative. An upper
endoscopy was recommended and declined by patient. 

In the ED:

Initial vital signs were notable for: T 97.8, HR 120, BP 120/80,
RR 24, 100% RA 

Exam notable for: Abd: epigastric tenderness, no distension, no
mass

Labs were notable for:

- CBC: WBC 19.7, hgb 14.9, plt 294

- Lytes:

143 / 99 / 21     AGap=27 
------------- 129 
3.8 \ 17 \ 3.2  

- LFTs: AST: 38 ALT: 42 AP: 63 Tbili: 0.9 Alb: 7.4 
- lipase 15
 
Studies performed include: CXR with no focal consolidation

Patient was given: Zofran and Haldol 5mg IM x1 for nausea, as
well as 3L IVF

Vitals on transfer: T 98.1, HR 90, BP 120/56, RR 18, 99% RA 

Upon arrival to the floor, patient reports he feels slightly
better, and was able to eat a few bites of chicken and drink 
some
water and juice, though this has increased his stomach cramps. 

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

 
Past Medical History:
- cyclic vomiting syndrome
- depression
- anxiety
- PTSD
- previous hospitalization for "blacking out" in setting of
alcohol use
 
Social History:
___
Family History:
His mother died at the age of ___ of a 'heart attack'. His father 
has liver disease (due to ethanol). He has 2 brothers and 1 
sister who are in good health. No other disorders that he is 
aware of run in his family.
 
Physical Exam:
Admission EXAM
VITALS: T 98.4, HR 80, BP 120/73, RR 18, 99% Ra 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Bowel sounds present. Voluntary guarding even with light
palpation. Tenderness in right upper and left upper quadrants,
epigastric area, without rebound 
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

Discharge exam:
Vitals: temp 98.4; HR 76; BP 119/71; RR 18; O2 99% RA
Gen: young man laying comfortably in bed, NAD
HEENT: EOMI, ___, MMM
Lungs: CTAB
Heart: RRR, S1 and S2
Abdomen: soft, NT, ND, +BS
Ext: warm, well perfused, no ___ edema
Skin: no rashes appreciated
Psych: normal mood and affect
Neuro: AOx3, no focal deficits
 
Pertinent Results:
Admission labs:

___ 05:15AM BLOOD WBC-19.7* RBC-6.45* Hgb-14.9 Hct-46.8 
MCV-73* MCH-23.1* MCHC-31.8* RDW-15.1 RDWSD-35.6 Plt ___
___ 05:15AM BLOOD Neuts-88.7* Lymphs-6.1* Monos-4.4* 
Eos-0.0* Baso-0.2 Im ___ AbsNeut-17.45* AbsLymp-1.19* 
AbsMono-0.86* AbsEos-0.00* AbsBaso-0.03
___ 05:05AM BLOOD Glucose-129* UreaN-21* Creat-3.2*# Na-143 
K-3.8 Cl-99 HCO3-17* AnGap-27*
___ 05:15AM BLOOD ALT-42* AST-38 AlkPhos-63 TotBili-0.9
___ 06:35AM BLOOD Calcium-9.4 Phos-3.9 Mg-2.1

Discharge Labs:

___ 07:35AM BLOOD WBC-8.3 RBC-5.92 Hgb-13.6* Hct-44.9 
MCV-76* MCH-23.0* MCHC-30.3* RDW-13.6 RDWSD-36.9 Plt ___
___ 07:35AM BLOOD Glucose-92 UreaN-15 Creat-1.1 Na-141 
K-4.7 Cl-102 HCO3-26 AnGap-13

Imaging:
CXR ___- No focal consolidation.

Cultures:
URINE CULTURE (Final ___:    NO GROWTH. 
 
Brief Hospital Course:
Mr. ___ is a ___ with no significant PMH presenting with 1 
day of vomiting, abdominal pain, and diarrhea. 

ACUTE/ACTIVE PROBLEMS:
#N/V Abdominal pain, Vomiting, Diarrhea:
Patient presenting with close to two days of abdominal pain with 
vomiting and diarrhea. Also associated with chills, though no 
fever. Constellation of symptoms is concerning for viral 
gastroenteritis. Cyclic vomiting syndrome has been considered
given prior diagnosis and marijuana use, but I think less likely 
given his description of diarrhea. Lipase normal. Norovirus PCR 
was negative. His N/V, abdominal pain and diarrhea resolved 
prior to discharge. His leukocytosis normalized prior to 
discharge without antibiotics. He was able to tolerate a diet 
and felt back to baseline so was discharged back home. 

___- He presents with elevated creatinine to 3.2. Likely 
prerenal in the setting of decreased PO intake from N/V and 
diarrhea. Resolved following IVF with creatinine on discharge to 
1.1

# Leukocytosis - White count of 19.7 on admission. Suspect due 
to gastroenteritis. Has otherwise been afebrile. As noted above 
leukocytosis normalized prior to discharge without abx. He was 
not discharged on any antibiotics.

CHRONIC/STABLE PROBLEMS:
# Tobacco use- declines nicotine patch at this time. Counselled 
on smoking cessation

Transitional Issues:
[] encourage smoking cessation

Greater than 30 min spent on discharge planning

 
Medications on Admission:
none
 
Discharge Medications:
none
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
viral gastroenteritis
___

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with nausea, vomiting and diarrhea. You were 
found to have kidney dysfunction that improved with IV fluids. 
You were monitored and your symptoms resolved and your kidney 
function returned back to normal. 

Best of luck in your recovery,
Your ___ team
 
Followup Instructions:
___